US06656971B2
4-Methoxy-3-(2-naphthylethoxy)phenylamine was prepared using the same experimental conditions described in Scheme XII. From 1-methoxy-2-(naphthylmethoxy)-4-nitrobenzene (3.8 g, 12.3 mmol), hydrazine hydrate (3.1 g, 61.4 mmol) and a catalytic amount of Raney nickel in 100 mL of methanol refluxed for 0.5 h., was obtained 3.5 g of product in (100%) yield as a brown oil that crystallized on standing. MS (EI) m/z 279 (M+).

reactant | 1-methoxy-2-(naphthylmethoxy)-4-nitrobenzene | 12.3 mmol, 3.8 g | COC1=C(C=C(C=C1)[N+](=O)[O-])OCC1=CC=CC2=CC=CC=C12 | C18H15NO4
reactant | hydrazine hydrate | 61.4 mmol, 3.1 g | O.NN
reactant | methanol | 100 mL | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | 4-Methoxy-3-(2-naphthylethoxy)phenylamine | COC1=C(C=C(C=C1)N)OCCC1=CC2=CC=CC=C2C=C1 | C19H19NO2
